* C:\Users\noroc\OneDrive\ExiliTech\Marcello_Sprinkler\sprinkler\01_Hardware\Simulations\Draft1.asc
M1 N002 N007 N001 N001 FDC638P
R1 N007 N008 47K
R2 N001 N008 22K
M2 N008 N010 0 0 AO6408
R3 N010 N009 470R
R4 0 N009 10K
V1 N009 0 PULSE(0 3.3V 100m 1u 1u 300m 600m 5)
V2 N001 0 5V
X§U1 N006 N003 N005 0 N004 AD8510
V3 N006 0 100m
R5 N004 N003 10K
R6 N003 0 10K
C1 N002 0 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\noroc\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1s
.lib ADI.lib
.backanno
.end
